US05795887
1N-Isopropyl-2-(2-oxo-5-phenyl-3-{3-[3-(1H-tetrazol-5-yl)-phenyl]-ureido}-2,3-dihydro-benzo[e][1,4]diazepin-1-yl)-N-phenyl-acetamide
According to Process B, a mixture of of 1,1'-carbonyldiimidazole (28.6 mg, 0.176 mmol) and 2-(3-Amino-2-oxo-5-phenyl-2,3-dihydro-benzo[e][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl-acetamide (75.0 mg, 0.176 mmol), prepared as in Intermediate 13, in anhydrous THF (5 mL) is stirred at ambient temperature under a nitrogen atmosphere for approximately 30 min. and then heated to reflux. After refluxing for 2 hrs, 3-(2H-tetrazol-5-yl)-phenylamine hydrochloride (36.5 mg, 0.185 mmol), prepared as in Intermediate 17, is added in one portion and the reaction is held at reflux for an additional 5 hrs and then concentrated in vacuo to a residue. The residue is purified by reversed-phase HPLC on a C-18 column with a gradient elution of 30-68% acetonitrile in aqueous trifluoroacetic acid (0.1% v/v) over 30 min. at 100 mL/min. Fractions containing the product are combined, frozen, and lyophilized to provide the title compound as a white lyophile (37 mg, 0.060 mmol). 1H NMR (300 MHz, d6-DMSO) δ=1.04 (d, 6H); 4.21 (d, J=16.4 Hz, 1H); 4.31 (d, J=17.1 Hz, 1H); 4.79-6.86 (m, 1H); 5.35-5.36 (m, 1H); 7.32-7.78 (m, 19H); 8.26 (b, 1H); 9.38 (b, 1H); MS (ESI): [M+H]+ =614.

reactant | 1,1'-carbonyldiimidazole | 0.176 mmol, 28.6 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(3-Amino-2-oxo-5-phenyl-2,3-dihydro-benzo[e][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl-acetamide | 0.176 mmol, 75.0 mg | NC1N=C(C2=C(N(C1=O)CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2)C2=CC=CC=C2 | C26H26N4O2
reactant | 3-(2H-tetrazol-5-yl)-phenylamine hydrochloride | 0.185 mmol, 36.5 mg | Cl.N=1NN=NC1C=1C=C(C=CC1)N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Isopropyl-2-(2-oxo-5-phenyl-3-{3-[3-(1H-tetrazol-5-yl)-phenyl]-ureido}-2,3-dihydro-benzo[e][1,4]diazepin-1-yl)-N-phenyl-acetamide | C(C)(C)C(C(=O)NC1=CC=CC=C1)N1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)NC2=CC(=CC=C2)C2=NN=NN2)=O | C34H31N9O3
